US09024027B2
A solution of 6-nitrobenzo[d]oxazol-2(3H)-one (0.500 g, 2.78 mmol) in DMF (10 ml) was cooled to 0° C. NaH (60% w/w dispersion in mineral oil, 0.133 g, 3.33 mmol) was added, and the reaction was allowed to warm to room temperature and stirred for 15 minutes. The mixture was cooled to 0° C., methyl 2-bromoacetate (0.309 ml, 3.33 mmol) was added, and the reaction was warmed to room temperature and stirred for 4 hours. The mixture was partitioned between ethyl acetate and 1N HCl. The organic phase was washed several times with brine and dried over sodium sulfate. The solvent was removed, and the crude was purified by trituration with diethyl ether (50 ml) affording methyl 2-(6-nitro-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.570 g, 2.260 mmol, 81% yield). MS/ESI+ 252.9 [MH]+.

reactant | 6-nitrobenzo[d]oxazol-2(3H)-one | 2.78 mmol, 0.500 g | [N+](=O)([O-])C1=CC2=C(NC(O2)=O)C=C1 | C7H4N2O4
reactant | NaH | 3.33 mmol, 0.133 g | [H-].[Na+]
reactant | methyl 2-bromoacetate | 3.33 mmol, 0.309 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-(6-nitro-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 2.260 mmol, 0.570 g, 81% yield | [N+](=O)([O-])C1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C10H8N2O6
